US03994905
a. Preparation of 4-mercaptophenyl isocyanate
To a suspension of 4-(t-butylmercapto)nitrobenzene (52.8 g., 0.25 mol) and iron powder (150 g.) in 1 l. of water there was added 1 ml. of acetic acid. The reaction mixture was stirred 18 hours at 90° C. and filtered. Both the residue and filtrate were extracted several times with methylene dichloride, and the combined dried methylene dichloride extracts were concentrated at reduced pressure to give 18.2 g. of a brown oil. This is a 40% weight yield of 4-(t-butylmercapto)aniline. To this oil in 100 ml. of benzene there was then added dropwise 158 g. of a 12.5% benzene solution of phosgene (0.2 mol) with cooling. The reaction mixture was stirred for 1 hour at 10° C., overnight at room temperature and then at reflux temperature for 7 hours. After standing overnight the reaction mixture was filtered, the filtrate concentrated at reduced pressure, then vacuum-distilled. Two product fractions were collected as

reactant | 4-(t-butylmercapto)nitrobenzene | 0.25 mol, 52.8 g | C(C)(C)(C)SC1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO2S
reactant | water | O | H2O
reactant | 4-(t-butylmercapto)aniline | C(C)(C)(C)SC1=CC=C(N)C=C1 | C10H15NS
reactant | phosgene | 0.2 mol | C(=O)(Cl)Cl | CCl2O
catalyst | iron | 150 g | [Fe] | Fe
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-mercaptophenyl isocyanate | SC1=CC=C(C=C1)N=C=O | C7H5NOS
